US06749771B1
To a stirred solution of 2,5-di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]-benzoic acid (0.77 g, 1.10 mmol), 4-dimethylaminopyridyne (13 mg, 0.11 mmol) and 1,3-bis(4-hydroxybutyl)-1,1,3,3-tetramethyldisiloxane (0.14 g, 0.5 mmol) in dichloromethane (25 ml), at 0° C., a solution of N,N′-dicyclohexylcarbodiimide (0.21 g, 1.10 mmol) in dichloromethane (5 ml) was added dropwise over a period of 15 min. The reaction mixture was warmed to room temperature and stirred overnight. Removal of the solvent gave a residue which was then purified by chromatography over a short silica-gel column (CH2Cl2, CH2Cl2/Et2O: 19/1) to give 1,3-bis-{4-[2,5-di-(4-(6-acryloyloxy-hexyloxy)phenylcarbonyloxy)phenylcarbonyloxy]-but-1-yl}-1,1,3,3-tetramethyldisiloxane as a white crystalline material. Yield: 0.59 g.

reactant | 2,5-di-[4-(6-acryloyloxyhexyloxy)phenylcarbonyloxy]-benzoic acid | 1.10 mmol, 0.77 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(=O)OC1=C(C(=O)O)C=C(C=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O12
reactant | 1,3-bis(4-hydroxybutyl)-1,1,3,3-tetramethyldisiloxane | 0.5 mmol, 0.14 g | OCCCC[Si](O[Si](C)(C)CCCCO)(C)C | C12H30O3Si2
reactant | N,N′-dicyclohexylcarbodiimide | 1.10 mmol, 0.21 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,3-bis-{4-[2,5-di-(4-(6-acryloyloxy-hexyloxy)phenylcarbonyloxy)phenylcarbonyloxy]-but-1-yl}-1,1,3,3-tetramethyldisiloxane | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)C(=O)OC1=C(C=C(C=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O)C(=O)OCCCC[Si](O[Si](C)(C)CCCCOC(=O)C1=C(C=CC(=C1)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O)OC(=O)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O)(C)C | C90H110O25Si2
